US05567670
Preparation of 3-[4-chloro-2-fluoro-5-(phenylmethoxy)-phenyl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
To a solution of 312 mg (7.82 mmol) of sodium hydride (60% oil dispersion) in 10 mL of N,N-dimethylformamide was added 1.43 g (7.82 mmol) of ethyl-3-amino-4,4,4-trifluorocrotonate in 7 mL of toluene over a period of 30 min at -5° C. The resulting mixture was stirred for an additional 30 min before it was cooled to -70° C. Then a solution of 2.17 g (7.82 mmol) of 4-chloro-2-fluoro-5-(phenylmethoxy)phenyl isocyanate in 7 mL of toluene was added dropwise at a rate that maintained the reaction temperature below -60° C. After the addition, the thick reaction mixture was maintained at -60° C. for an additional 1 h before the cooling bath was removed. The mixture was gradually warmed to room temperature and stirring was continued for 1.5 h. Then the mixture was poured into a solution of 10 mL of concentrated HCl in 200 mL of water. The toluene layer was separated and the aqueous layer was further extracted twice with 200 mL of ether, dried (MgSO4), concentrated in vacuo to give yellow oil which was flash chromatographed over silica gel eluting with a 1:4 v:v mixture of ethyl acetate and hexane to give 1.85 g of the title compound as a pale yellow foam: 1 -NMR (CDCl3, 200 MHz): ppm 7.40 (m, 6H), 6.85 (d, 1H), 6.2 (s, 1H), 5.05 (s, 2H).

reactant | sodium hydride | 7.82 mmol, 312 mg | [H-].[Na+]
reactant | ethyl-3-amino-4,4,4-trifluorocrotonate | 7.82 mmol, 1.43 g | C(C)OC(\C=C(\C(F)(F)F)/N)=O | C6H8F3NO2
reactant | 4-chloro-2-fluoro-5-(phenylmethoxy)phenyl isocyanate | 7.82 mmol, 2.17 g | ClC1=CC(=C(C=C1OCC1=CC=CC=C1)N=C=O)F | C14H9ClFNO2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[4-chloro-2-fluoro-5-(phenylmethoxy)-phenyl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 1.85 g | ClC1=CC(=C(C=C1OCC1=CC=CC=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)F | C18H11ClF4N2O3
